US08633173B2
[1-(2-Pyrrolidin-1-yl-ethyl)-1H-pyrazol-4-yl]-[8-(4-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amine was prepared from 2-chloro-8-(4-trifluoromethyl-phenyl)-[1,2,4]triazolo[1.5-a]pyridine (0.100 g, 0.33 mmol) and 1-(2-pyrrolidin-1-yl-ethyl)-1H-pyrazol-4-ylamine (0.078 g, 0.43 mmol) in a manner analogous to Example 2d. Product was isolated as a tan solid (78 mg, 52%). MP=205-207° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.35 (s, 1H), 8.76 (d, J=6.44 Hz, 1H), 8.38 (d, J=8.00 Hz, 2H), 7.08-7.93 (m, 3H), 7.84 (s, 1H), 7.47 (s, 1H), 7.11 (t, J=7.08 Hz, 1H), 4.17 (t, J=6.37 Hz, 2H), 2.80 (t, J=6.24 Hz, 2H), 2.45 (s, 4H), 1.64 (s, 4H). MS=442 (MH)+.

reactant | 2-chloro-8-(4-trifluoromethyl-phenyl)-[1,2,4]triazolo[1.5-a]pyridine | 0.33 mmol, 0.100 g | ClC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)C(F)(F)F)=N1 | C13H7ClF3N3
reactant | 1-(2-pyrrolidin-1-yl-ethyl)-1H-pyrazol-4-ylamine | 0.43 mmol, 0.078 g | N1(CCCC1)CCN1N=CC(=C1)N | C9H16N4
product | [1-(2-Pyrrolidin-1-yl-ethyl)-1H-pyrazol-4-yl]-[8-(4-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amine | N1(CCCC1)CCN1N=CC(=C1)NC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)C(F)(F)F)=N1 | C22H22F3N7
